US07863271B2
To a solution of NaH (60% dispersion in mineral oil, 0.130 g, 3.25 mmol) in THF (10 mL) was added 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine (0.33 g, 2.71 mmol) and the reaction mixture stirred for 10 min. Methyl 2-chlorobenzoxazole-4-carboxylate (478 mg, 2.26 mmol), in THF (10 mL) was added and the reaction mixture was allowed to stir at room temperature 17 h. The reaction mixture was quenched with CH3OH (3 mL), and adsorbed onto silica gel (2 g). The crude product was purified by column chromatography (silica gel, 0.5 to 10% CH3OH in CH2Cl2) to afford methyl 2-(5,6-dihydroimidazo[1,2-a]pyrazin-7(8H)-yl)benzoxazole-4-carboxylate (251 mg, 37%) as an orange oil. 1H NMR and MS consistent.

reactant | NaH | 3.25 mmol, 0.130 g | [H-].[Na+]
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | 2.71 mmol, 0.33 g | N=1C=CN2C1CNCC2 | C6H9N3
reactant | Methyl 2-chlorobenzoxazole-4-carboxylate | 2.26 mmol, 478 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 2-(5,6-dihydroimidazo[1,2-a]pyrazin-7(8H)-yl)benzoxazole-4-carboxylate | 251 mg, 37% | N=1C=CN2C1CN(CC2)C=2OC=1C(N2)=C(C=CC1)C(=O)OC | C15H14N4O3
